US09388189B2
a) N-(6-Bromo-1H-indol-4-yl)methanesulfonamide
6-Bromo-1H-indol-4-amine (500 mg, 1.97 mmol) was treated with methanesulfonyl chloride (167 μl, 2.16 mmol) according to the method described in Preparation 15b to give 580 mg (91% yield) of the title compound. Purity 89%.

reactant | 6-Bromo-1H-indol-4-amine | 1.97 mmol, 500 mg | BrC=1C=C(C=2C=CNC2C1)N | C8H7BrN2
reactant | methanesulfonyl chloride | 2.16 mmol, 167 μl | CS(=O)(=O)Cl | CH3ClO2S
product | N-(6-Bromo-1H-indol-4-yl)methanesulfonamide | 580 mg, 91% yield | BrC1=CC(=C2C=CNC2=C1)NS(=O)(=O)C | C9H9BrN2O2S
